US04954507
7-(3,4-dimethyl-1-piperazinyl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-1,8-naphthyridine-3-carboxylic acid.
7-(3-phenyl-1-piperazinyl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-1,8-naphthyridine-3-carboxylic acid, methanesulfonate.

reactant | 7-(3-phenyl-1-piperazinyl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-1,8-naphthyridine-3-carboxylic acid | C1(=CC=CC=C1)C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=N1)C(C)(C)C)C(=O)O)=O)F | C23H25FN4O3
reactant | methanesulfonate | CS(=O)(=O)[O-]
product | 7-(3,4-dimethyl-1-piperazinyl)-1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-4-oxo-1,8-naphthyridine-3-carboxylic acid | CC1CN(CCN1C)C1=C(C=C2C(C(=CN(C2=N1)C(C)(C)C)C(=O)O)=O)F | C19H25FN4O3
